US06469172B2
2-amino-6-[(4-amino-1-piperidinyl)methyl ]pyridine trihydrochloride salt:
To a stirred solution of 2-(trimethylacetylamino)-6-[(4-t-butoxycarbonylamino-1-piperidinyl)methyl]pyridine formic acid salt (0.74 g, 3.0 mmol) in methanol (6 mL) was added 6 N HCl (2 mL) at room temperature. The resulting mixture was heated to reflux for 10 h. Then, the reaction was cooled to room temperature and concentrated under rotary evaporator. After azeotropic removal of water with 1-propanol twice (20 mL each), the resulting solid was treated with methanol (5 mL). After being stirred for 1 h in methanol, ethanol (12 mL) was added slowly and stirred for additional 1 h. After filtration, drying of the resulting crystalline solid gave the desired title compound (491 mg, 80% yield, 98 A % purity).

reactant | 2-(trimethylacetylamino)-6-[(4-t-butoxycarbonylamino-1-piperidinyl)methyl]pyridine formic acid salt | 3.0 mmol, 0.74 g | C(=O)O.CC(C(=O)NC1=NC(=CC=C1)CN1CCC(CC1)NC(=O)OC(C)(C)C)(C)C
reactant | HCl | 6 N, 2 mL | Cl | ClH
solvent | methanol | 6 mL | CO | CH4O
product | 2-amino-6-[(4-amino-1-piperidinyl)methyl ]pyridine trihydrochloride salt | 80% yield | Cl.Cl.Cl.NC1=NC(=CC=C1)CN1CCC(CC1)N | InChI=1S/C11H18N4.3ClH/c12-9-4-6-15(7-5-9)8-10-2-1-3-11(13)14-10;;;/h1-3,9H,4-8,12H2,(H2,13,14);3*1H
